US09359329B2
16.2. 6-chloro-N-cyclopentyl-N-(prop-2-en-1-yl)pyridine-3-sulfonamide
According to Process 10.2, starting with 1 g of 6-chloro-N-cyclopentylpyridine-3-sulfonamide and 0.42 mL of allyl bromide, 1.2 g of 6-chloro-N-phenyl-N-(prop-2-en-1-yl)pyridine-3-sulfonamide are obtained in the form of an orange-coloured oil.

reactant | 6-chloro-N-cyclopentylpyridine-3-sulfonamide | 1 g | ClC1=CC=C(C=N1)S(=O)(=O)NC1CCCC1 | C10H13ClN2O2S
reactant | allyl bromide | 0.42 mL | C(C=C)Br | C3H5Br
reactant | 6-chloro-N-phenyl-N-(prop-2-en-1-yl)pyridine-3-sulfonamide | 1.2 g | ClC1=CC=C(C=N1)S(=O)(=O)N(CC=C)C1=CC=CC=C1 | C14H13ClN2O2S
product | 6-chloro-N-cyclopentyl-N-(prop-2-en-1-yl)pyridine-3-sulfonamide | ClC1=CC=C(C=N1)S(=O)(=O)N(CC=C)C1CCCC1 | C13H17ClN2O2S
